US08431748B2
Synthesis of a Trimethyolpropane Monoallyl Ether-Thiolactic Acid Adduct, TELA
AIBN (1.5 g) was dissolved in trimethylolpropane monoallyl ether (497 g, 2.86 mol). This solution was slowly added, under nitrogen with stirring, to thiolactic acid (300 g, 2.83 mol) at such a rate that the temperature of the exothermal reaction was kept at 80° C. When the addition was completed, the temperature was raised to 90° C. and kept at 90° C. for 1 h. The product had 1H-NMR (CDCl3): δ 1.11 (t, 3H, CH3CH2), 1.53 (q, 2H, CH3CH2), 2.00-2.20 (m, 2H, CH2CH2CH2), 2.98-3.06 (m, 2H, 3.65-4.02 (m, 9H); and is soluble in methanol and toluene, not soluble in hexane.

reactant | AIBN | 1.5 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | trimethylolpropane monoallyl ether | 2.86 mol, 497 g | CCC(CO)(CO)COCC=C | C9H18O3
reactant | thiolactic acid | 2.83 mol, 300 g | C(C(O)C)(=S)O | C3H6O2S
solvent | methanol | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | Monoallyl Ether Thiolactic Acid | C(C=C)OCC=C.C(C(O)C)(=S)O | InChI=1S/C6H10O.C3H6O2S/c1-3-5-7-6-4-2;1-2(4)3(5)6/h3-4H,1-2,5-6H2;2,4H,1H3,(H,5,6)
